US09290468B2
To a solution of 2,3,4-trifluorobromobenzene in appropriate solvent is added strong base (such as LDA, nBuLi, LiHDMS) under nitrogen atmosphere. The reaction is generally carried out at low temperature (−50-−80° C., prefer −78° C.). The reaction is kept stirring for some time (0.5-12 h, preferably select 0.5-2 h) and is added dry ice. The resulting mixture is kept stirring for some time (3-12 h, prefer 5-10 h) and 5-bromo-2,3,4-trifluorobenzoic acid is obtained after conventional workup.

reactant | 2,3,4-trifluorobromobenzene | FC1=C(C=CC(=C1F)F)Br | C6H2BrF3
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | nBuLi | [Li]CCCC
reactant | dry ice | C(=O)=O | CO2
product | 5-bromo-2,3,4-trifluorobenzoic acid | BrC=1C(=C(C(=C(C(=O)O)C1)F)F)F | C7H2BrF3O2
